US07468364B2
Sodium (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-(4-methoxyphenyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.43 g) was dissolved in dry DMF (4.3 ml) and thereto was added triethylbenzylammonium chloride (0.25 g). Thereto was dropped 1-chloroethylcyclohexylcarbonate (0.62 g) and the mixture was stirred under heating to 50° C. One hour later, the mixture was cooled to room temperature and thereto was added ethyl acetate. The mixture was washed with bicarbonate solution, water and brine, successively. The organic layer was dried over sodium sulfate, concentrated, and the residue was purified with silica gel column chromatography (hexane:ethyl acetate=1:2→1:3→ethyl acetate only) to give 1-{[(cyclohexyloxy)carbonyl]oxy}ethyl(5R,6S)-6-[(1R)-1-hydroxyethyl]-3-(4-methoxyphenyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.12 g, yield 20%).

reactant | Sodium (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-(4-methoxyphenyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.43 g | O[C@H](C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)[O-])C1=CC=C(C=C1)OC.[Na+]
reactant | 1-chloroethylcyclohexylcarbonate | 0.62 g | CC(OC(=O)OC1CCCCC1)Cl | C9H15ClO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 4.3 ml | CN(C)C=O | C3H7NO
catalyst | triethylbenzylammonium chloride | 0.25 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | 1-{[(cyclohexyloxy)carbonyl]oxy}ethyl(5R,6S)-6-[(1R)-1-hydroxyethyl]-3-(4-methoxyphenyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.12 g, yield 20% | O[C@H](C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)OC(C)OC(=O)OC1CCCCC1)C1=CC=C(C=C1)OC | C25H31NO8
